Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Bright red blood per rectum 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per ED Note:

___ discharged earlier today from PACU after hemorrhoidectomy x2 
and ligation x1 and on the way home became lightheaded and 
diaphoretic followed by multiple episodes of BRBPR and clots 
(per wife ___ full cups). The patient was unresponsive for a few 
seconds according to his wife but he reports not loosing
conciousness. Per EMS report, he was found to be "pulseless". On 
arrival to the ED, he was arousable with SBP and HR both in the 
___.
 
Past Medical History:
PAST MEDICAL HISTORY:  
Squamous cell cancer of his tongue.

PAST SURGICAL HISTORY:  
Excision of squamous cell cancer of tongue ___ years ago.
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Admission Physical Exam:

T 97.3   HR 54   BP 117/81   RR 16   SatO2 100% RA 
NAD, Arousable
RRR
CTA bil
Abdomen soft, non tender
Extremities no edema
Anal exam: two vicryl sutures in place in site of external 
hemorrhoidectomy

=======================

Discharge Physical Exam:

VS: 98.1, 126/81, 68, 18, 97%/RA 
GEN: WD, WN in mild distress
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
 
Pertinent Results:
___ 01:40PM BLOOD WBC-7.5 RBC-3.61* Hgb-11.0* Hct-32.6* 
MCV-90 MCH-30.5 MCHC-33.7 RDW-13.0 RDWSD-43.1 Plt ___
___ 07:10AM BLOOD WBC-7.9 RBC-3.78* Hgb-11.6* Hct-34.2* 
MCV-91 MCH-30.7 MCHC-33.9 RDW-13.0 RDWSD-42.9 Plt ___
___ 10:08PM BLOOD Hct-34.9*
___ 06:00PM BLOOD Hct-36.4*
___ 01:50PM BLOOD WBC-14.0* RBC-4.01* Hgb-12.3* Hct-36.8* 
MCV-92 MCH-30.7 MCHC-33.4 RDW-12.9 RDWSD-43.4 Plt ___
___ 01:50PM BLOOD Neuts-83.5* Lymphs-8.8* Monos-6.7 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-11.71* AbsLymp-1.24 
AbsMono-0.94* AbsEos-0.06 AbsBaso-0.03
___ 07:10AM BLOOD ___ PTT-28.9 ___
___ 01:50PM BLOOD ___ PTT-25.9 ___
___ 07:10AM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-142 
K-3.7 Cl-105 HCO3-28 AnGap-9*
___ 01:50PM BLOOD Glucose-116* UreaN-15 Creat-0.9 Na-141 
K-3.9 Cl-103 HCO3-25 AnGap-13
___ 07:10AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9
___ 01:50PM BLOOD Calcium-9.0 Phos-4.7* Mg-2.0
___:58PM BLOOD Lactate-1.3
 
Brief Hospital Course:
Mr. ___ presented to the emergency department on ___ 
with a vagal episode and bright red blood per rectum following a 
hemorrhoidectomy. The patient was evaluated by and admitted to 
the colorectal surgery service for further management. The 
patient had serial blood levels drawn, vitals were routinely 
monitored, and he was placed on continuous cardiac monitoring.  
The patient had some difficulty with pain management, and after 
some adjustments to medication the patients pain was well 
controlled. the patient was maintained on a regular diet. The 
patient's hematocrit was checked serially and found to be 
stable. After stability and hydration were assured, the patient 
was deemed ready for discharge. At the time of discharge the 
patient was hemodynamically stable without signs of symptoms of 
hypovelmia, he was tolerating a regular diet and his pain was 
under reasonable control given his post surgical status. He was 
voiding spontaneously and prepared to discharge. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bright red blood per rectum
Vagal episode 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the ___ 
with bleeding following a hemorrhoidectomy. Your blood levels 
and vital signs were monitored closely. Your levels remained 
stable as well as your vitals and were no longer passing blood 
per rectum. You are now ready to return home to continue your 
recovery. 

You should try to have a bowel movement within 48 hours after 
surgery. Constipation can cause pain and put pressure on your 
incision. Do the following to prevent constipation:
-Drink plenty of liquids. Liquids can help prevent constipation 
and straining. Ask how much liquid to drink each day and which 
liquids are best for you.
-Eat a variety of high-fiber foods. This will help make it 
easier to have a bowel movement. Examples include fruits, 
vegetables, and whole grains. Ask your healthcare provider how 
much fiber you need each day. You may need to take a fiber 
supplement. 

You should continue to take 2 Extra Strength Tylenol (___) 
for pain every 8 hours around the clock. Please do not take more 
than 3000mg of Tylenol in 24 hours or any other medications that 
contain Tylenol such as cold medication. Do not drink alcohol 
while taking Tylenol. Take oxycodone only when you need it. 
While taking narcotic pain medications, it is important to take 
a stool softener as narcotics can cause constipation.

Thank you for allowing us to participate in your care, we wish 
you all the best! 
 
Followup Instructions:
___